US03980650
8.9 g. (0.05 mol) of 6-aminoveratronitrile, 5.2 g. (0.05 mol) of 2-pyridine carbonitrile and 5.4 g. (0.1 mol) of sodium methoxide in 250 ml. of isopropanol are refluxed for 48 hours under a nitrogen atmosphere. The reaction mixture is then decomposed with water and the isopropanol is distilled off. 80 ml. of diethyl ether and 80 ml. of water are added and the layers are separated. The water is distilled off from the aqueous layer and the residue is dissolved in 100 ml. of chloroform. The solution is filtered and the chloroform is distilled off. The residue is crystallized from toluene to give 4-amino-6,7-dimethoxy-2-(2-pyridyl)quinazoline, m.p. 248° - 251°C. The base is converted into the monohydrochloride, and the salt after crystallization from a mixture of water and isopropanol, melts above 310°C.

reactant | 6-aminoveratronitrile | 0.05 mol | NC1=CC(=C(C=C1C#N)OC)OC | C9H10N2O2
reactant | 2-pyridine carbonitrile | 0.05 mol | N1=C(C=CC=C1)C#N | C6H4N2
reactant | sodium methoxide | 0.1 mol | C[O-].[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 4-amino-6,7-dimethoxy-2-(2-pyridyl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)C1=NC=CC=C1 | C15H14N4O2
